US09302989B2
methyl 6-(2,3-dihydro-1H-pyrrolo[3,4-c]pyridine-2-carboxamido)pyridazine-3-carboxylate
Methyl 6-aminopyridazine-3-carboxylate (2 g, 13.06 mmol) was suspended in dichloromethane (50 ml) followed by addition of dry pyridine (1.265 ml, 15.67 mmol) under nitrogen. To this suspension was added a dichloromethane solution of 4-nitrophenyl carbonochloridate (2.99 g, 14.37 mmol) via syringe at ambient temperature. The mixture was stirred overnight to give a suspension that was concentrated to half volume under a stream of nitrogen. 2,3-Dihydro-1H-pyrrolo[3,4-c]pyridine, dihydrochloride (2.52 g, 13.06 mmol) was dissolved in 30 ml dimethylformamide with triisopropylethylamine (6.84 ml, 39.2 mmol) and added to the carbamate mixture via syringe. After stirring the mixture overnight and removing most of the solvent under vacuum, water was added; and the resulting suspension was stirred for 30 minutes and filtered to give a solid which was washed with water. Flash chromatography of the dried solid gave the title compound.

reactant | Methyl 6-aminopyridazine-3-carboxylate | 13.06 mmol, 2 g | NC1=CC=C(N=N1)C(=O)OC | C6H7N3O2
reactant | pyridine | 15.67 mmol, 1.265 ml | N1=CC=CC=C1 | C5H5N
reactant | 4-nitrophenyl carbonochloridate | 14.37 mmol, 2.99 g | C(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)Cl | C7H4ClNO4
reactant | 2,3-Dihydro-1H-pyrrolo[3,4-c]pyridine, dihydrochloride | 13.06 mmol, 2.52 g | Cl.Cl.C1NCC=2C=NC=CC21
reactant | triisopropylethylamine | 39.2 mmol, 6.84 ml | C(C)(C)C(CN)(C(C)C)C(C)C | C11H25N
reactant | carbamate | C(N)([O-])=O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | methyl 6-(2,3-dihydro-1H-pyrrolo[3,4-c]pyridine-2-carboxamido)pyridazine-3-carboxylate | C1N(CC=2C=NC=CC21)C(=O)NC2=CC=C(N=N2)C(=O)OC | C14H13N5O3
